US05314918
Preparation of 3-(4-Carboxy-2-methoxyphenylmethylthio)-3-[2-(8-phenyloctyl)phenyl]propionic acid
A solution of 0.54 g (1.32 mmol) of tert-butyl 3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propionate and 0.52 gm, (2.64 mmol) of 3-methoxy-4-mercaptomethylbenzoic acid in 10 ml of methylene chloride at 0° was treated dropwise with 20 ml of trifluoroacetic acid. Stirring was continued at 0° for 4 hours and 221 for 1 hour, and all the solvents were thoroughly evaporated. The residue was crystallized first from H2O/MECN (1:4), and then from Me2CO/hexane, and to yield the product, 0.26 gm. nmr (CDCl3 /Me2CO/DMSO): 7.05-7.72(m, 12H), 4.52 (d of d, 1H), 4.83(d, 1H), 4.82(s,3H), 4.68(d.1H), 2.88-3.24(m, 2H), 2.36-2.74 (m, 4H), 1.10-1.75(m,12H).

reactant | tert-butyl 3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propionate | 1.32 mmol, 0.54 g | OC(CC(=O)OC(C)(C)C)C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1 | C27H38O3
reactant | 3-methoxy-4-mercaptomethylbenzoic acid | 2.64 mmol | COC=1C=C(C(=O)O)C=CC1CS | C9H10O3S
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Carboxy-2-methoxyphenylmethylthio)-3-[2-(8-phenyloctyl)phenyl]propionic acid | C(=O)(O)C1=CC(=C(C=C1)CSC(CC(=O)O)C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1)OC | C32H38O5S
